US04116956
To a mixture of 1 part of 2-hydrazino-5-phenyl-3H-1,4-benzodiazepine, prepared in Example 3, 2 parts by volume of ethyl orthoformate and 20 parts by volume of ethanol, 0.44 part by volume of concentrated sulfuric acid is added dropwise with ice-cooling. The mixture is stirred at room temperature for 30 minutes and neutralized with saturated aqueous sodium bicarbonate. The resulting oily substance is extracted with methylene chloride. The methylene chloride layer is washed with water, dried over sodium sulfate and the solvent is evaporated, whereby 6-phenyl-4H-s-triazolo [4,3-a] [1,4] benzodiazepine is yielded as crystals. Recrystallization from a mixture of acetone and n-hexane yields colorless needles melting at 195° C to 196° C.

reactant | 2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=CC=CC=C1)C=CC=C2 | C15H14N4
reactant | ethyl orthoformate | C(OCC)([O-])[O-]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-phenyl-4H-s-triazolo [4,3-a] [1,4] benzodiazepine | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=CC=C3)C=NN2 | C16H12N4
